US06080743
a) N-(2,3-Dimethoxy-7-nitro-quinoxalin-5-ylmethyl)-2-methylaziridine
200 mg (0.61 mmol) of 5-bromomethyl-2,3-dimethoxy-7-nitro-quinoxaline, 0.086 ml (2 equiv.) of propyleneimine and 0.295 ml (0.3 equiv.) of an aqueous 40% tetrabutylammonium hydroxide solution are stirred in 8 ml of dichloromethane for 20 hours at room temperature. The mixture is concentrated by evaporation and the residue is extracted with ethyl acetate and a 5% sodium carbonate solution. The combined organic phases are washed once with brine, dried over magnesium sulfate and concentrated by evaporation.

reactant | 5-bromomethyl-2,3-dimethoxy-7-nitro-quinoxaline | 0.61 mmol, 200 mg | BrCC1=C2N=C(C(=NC2=CC(=C1)[N+](=O)[O-])OC)OC | C11H10BrN3O4
reactant | propyleneimine | 0.086 ml, 2 equiv. | CC1CN1 | C3H7N
reactant | tetrabutylammonium hydroxide | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | N-(2,3-Dimethoxy-7-nitro-quinoxalin-5-ylmethyl)-2-methylaziridine | COC1=NC2=CC(=CC(=C2N=C1OC)CN1C(C1)C)[N+](=O)[O-] | C14H16N4O4
